US07521461B2
Heptan-1-amine (1 g, 8.679 mmol) was dissolved in dry THF under N2 and polymer supported N-benzyl-N,N-diisopropylamine (4.955 g, 26.038 mmol) was added. The mixture was stirred for 30 min and cooled to 0 degrees and (4-chlorophenyl)acetyl chloride (1.969 g, 10.415 mmol) was added. The solution was stirred overnight at room temperature. The excess of (4-chlorophenyl)acetyl chloride was removed by filtering the mixture through an NH2 cartridge. The solvent was removed by evaporation. The crude was purified by preparative HPLC (started with isocratic acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions were pooled and the acetonitrile was removed by evaporation EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4) and the solvent was removed by evaporation to give 1.045 g of 2-(4-chlorophenyl)-N-heptylacetamide (yield 45.0%).

reactant | Heptan-1-amine | 8.679 mmol, 1 g | C(CCCCCC)N | C7H17N
reactant | N-benzyl-N,N-diisopropylamine | 26.038 mmol, 4.955 g | C(C1=CC=CC=C1)N(C(C)C)C(C)C | C13H21N
reactant | (4-chlorophenyl)acetyl chloride | 10.415 mmol, 1.969 g | ClC1=CC=C(C=C1)CC(=O)Cl | C8H6Cl2O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-chlorophenyl)-N-heptylacetamide | 1.045 g, yield 45.0% | ClC1=CC=C(C=C1)CC(=O)NCCCCCCC | C15H22ClNO
